* c:\users\yuvaraj.n\esim-workspace\esimfun\esimfun.cir

.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "D:\esim\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
xsc22 net-_sc13-pad2_ net-_sc22-pad2_ net-_sc20-pad3_ net-_sc22-pad4_ net-_sc20-pad5_ sky130_stdcells__dfrbp_1 W=1 L=1
xsc23 net-_sc13-pad2_ net-_sc22-pad4_ net-_sc20-pad3_ net-_sc23-pad4_ net-_sc20-pad5_ sky130_stdcells__dfrbp_1 W=1 L=1
xsc21 net-_sc13-pad2_ net-_sc21-pad2_ net-_sc17-pad3_ net-_sc21-pad4_ net-_sc20-pad5_ sky130_stdcells__dfrbp_1 W=1 L=1
xsc20 net-_sc13-pad2_ net-_sc20-pad2_ net-_sc20-pad3_ net-_sc20-pad4_ net-_sc20-pad5_ sky130_stdcells__dfrbp_1 W=1 L=1
xsc14 net-_sc14-pad1_ net-_sc14-pad2_ sky130_tests__not W=1 L=1
xsc8 net-_sc8-pad1_ ? sky130_tests__not W=1 L=1
xsc5 net-_sc5-pad1_ net-_sc13-pad2_ sky130_tests__not W=1 L=1
xsc6 net-_sc6-pad1_ net-_sc5-pad1_ net-_sc17-pad2_ sky130_stdcells__or2_0 W=1 L=1
xsc7 net-_sc21-pad4_ net-_sc22-pad2_ net-_sc7-pad3_ sky130_stdcells__or2_0 W=1 L=1
xsc31 net-_sc22-pad2_ net-_sc21-pad4_ ? sky130_stdcells__and2_0 W=1 L=1
xsc30 net-_sc23-pad4_ net-_sc22-pad4_ net-_sc27-pad2_ sky130_stdcells__and2_0 W=1 L=1
xsc27 net-_sc27-pad1_ net-_sc27-pad2_ sky130_tests__not W=1 L=1
xsc28 net-_sc28-pad1_ net-_sc28-pad2_ sky130_tests__not W=1 L=1
xsc29 net-_sc28-pad2_ net-_sc24-pad5_ sky130_tests__not W=1 L=1
xsc24 net-_sc24-pad1_ net-_sc24-pad1_ net-_sc24-pad1_ net-_sc24-pad1_ net-_sc24-pad5_ sky130_stdcells__and4_1 W=1 L=1
xsc25 net-_sc20-pad4_ net-_sc20-pad4_ net-_sc20-pad4_ net-_sc20-pad4_ net-_sc24-pad1_ sky130_stdcells__and4_1 W=1 L-1
xsc17 net-_sc14-pad1_ net-_sc17-pad2_ net-_sc17-pad3_ sky130_stdcells__or2_0 W=1 L=1
* u2  net-_u1-pad4_ net-_sc32-pad3_ ? net-_u2-pad4_ net-_u2-pad4_ count23
* u3  net-_u2-pad4_ net-_sc32-pad3_ net-_u14-pad~_ net-_u3-pad4_ net-_u3-pad4_ count23
* u1  net-_sc26-pad3_ net-_sc32-pad3_ ? net-_u1-pad4_ net-_u1-pad4_ count23
xsc2 net-_sc2-pad1_ net-_sc1-pad1_ sky130_tests__not W=1 L=1
xsc9 net-_sc15-pad2_ net-_sc2-pad1_ sky130_tests__not W=1 L=1
xsc15 net-_sc15-pad1_ net-_sc15-pad2_ sky130_tests__not W=1 L=1
xsc19 net-_sc10-pad2_ net-_sc15-pad1_ sky130_tests__not W=1 L=1
xsc1 net-_sc1-pad1_ net-_sc1-pad2_ sky130_tests__not W=1 L=1
xsc10 net-_sc1-pad2_ net-_sc10-pad2_ sky130_tests__not W=1 L=1
xsc26 net-_sc10-pad2_ net-_sc13-pad2_ net-_sc26-pad3_ sky130_stdcells__and2_0 W=1 L=1
* s c m o d e
xsc32 net-_sc13-pad2_ net-_sc14-pad2_ net-_sc32-pad3_ sky130_stdcells__and2_0 W=1 L=1
* u4  net-_sc7-pad3_ net-_sc20-pad4_ net-_sc20-pad2_ xor21
* u5  net-_sc8-pad1_ net-_sc6-pad1_ net-_sc21-pad2_ xor21
* u9  net-_sc22-pad2_ plot_v1
* u8  net-_sc13-pad2_ plot_v1
* u7  net-_sc14-pad2_ plot_v1
* u10  net-_sc6-pad1_ plot_v1
* u11  net-_sc27-pad1_ plot_v1
* u12  net-_sc28-pad1_ plot_v1
* u13  net-_sc28-pad2_ plot_v1
* u14  net-_u14-pad~_ plot_v1
* u15  net-_sc20-pad5_ plot_v1
xsc12 net-_sc11-pad1_ /c1 gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc4 /c1 net-_sc11-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 W=1 L=1
xsc11 net-_sc11-pad1_ /c1 net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8 W=1 L=1
xsc3 /c1 ? net-_sc11-pad3_ net-_sc11-pad3_ sky130_fd_pr__pfet_01v8 W=1 L=1
v1 net-_sc11-pad3_ gnd  dc 0
xsc13 net-_sc11-pad1_ net-_sc13-pad2_ sky130_stdcells__clkinvlp_2 W=1 L=1
a1 [net-_u1-pad4_ ] [net-_sc32-pad3_ ] [? net-_u2-pad4_ net-_u2-pad4_ ] u2
a2 [net-_u2-pad4_ ] [net-_sc32-pad3_ ] [net-_u14-pad~_ net-_u3-pad4_ net-_u3-pad4_ ] u3
a3 [net-_sc26-pad3_ ] [net-_sc32-pad3_ ] [? net-_u1-pad4_ net-_u1-pad4_ ] u1
a4 [net-_sc7-pad3_ ] [net-_sc20-pad4_ ] [net-_sc20-pad2_ ] u4
a5 [net-_sc8-pad1_ ] [net-_sc6-pad1_ ] [net-_sc21-pad2_ ] u5
* Schematic Name:                             count23, NgSpice Name: count23
.model u2 count23(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             count23, NgSpice Name: count23
.model u3 count23(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             count23, NgSpice Name: count23
.model u1 count23(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             xor21, NgSpice Name: xor21
.model u4 xor21(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             xor21, NgSpice Name: xor21
.model u5 xor21(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
.tran 0.01e-00 10e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(net-_sc22-pad2_)
plot v(net-_sc13-pad2_)
plot v(net-_sc14-pad2_)
plot v(net-_sc6-pad1_)
plot v(net-_sc27-pad1_)
plot v(net-_sc28-pad1_)
plot v(net-_sc28-pad2_)
plot v(net-_u14-pad~_)
plot v(net-_sc20-pad5_)
.endc
.end
